US05164401
2.6 g of 3-butyl-9,9-dimethyl-2,4,6, 8-tetraoxo-3,7-diazabicyclo[3,3,1]nonane were heated to 120° C. in 50 ml of dimethyl formamide with 1.7 g potassium carbonate for one hour. After cooling, a solution of 1.8 g of 2,5-dimethylbenzyl chloride in 20 ml of dimethyl formamide was added dropwise to the reaction mixture, and the reaction mixture was heated to 120° C. for another 3 hours. The reaction mixture was worked up by distilling off the dimethyl formamide, taking up the residue in dichloromethane, and washing with water adjusted to an alkaline pH value. The dichloromethane phase was separated, dried over magnesium sulfate, and concentrated. After recrystallizing the remaining crude product residue from ether/acetone, 1.2 g of 3-butyl-7-(2,5-dimethylbenzyl)-9, 9-dimethyl-2,4,6,8-tetraoxo-3,7diazabicyclo[3,3, 1]nonane was obtained having a melting point of 159-161° C.

reactant | 3-butyl-9,9-dimethyl-2,4,6, 8-tetraoxo-3,7-diazabicyclo[3,3,1]nonane | 2.6 g | C(CCC)N1C(C2C(NC(C(C1=O)C2(C)C)=O)=O)=O | C13H18N2O4
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethylbenzyl chloride | 1.8 g | CC1=C(CCl)C=C(C=C1)C | C9H11Cl
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-butyl-7-(2,5-dimethylbenzyl)-9, 9-dimethyl-2,4,6,8-tetraoxo-3,7diazabicyclo[3,3, 1]nonane | 1.2 g | C(CCC)N1C(C2C(N(C(C(C1=O)C2(C)C)=O)CC2=C(C=CC(=C2)C)C)=O)=O | C22H28N2O4
